datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[H:9])[H:8])[H:7])([H:5])[H:6].[c:13]1[c:14]([H:19])[c:15]([H:20])[c:16]([H:21])[c:17]([H:22])[c:18]1[H:23]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])([H:9])[c:13]1[c:14]([H:19])[c:15]([H:20])[c:16]([H:21])[c:17]([H:22])[c:18]1[H:23])[H:8])[H:7])([H:5])[H:6],-9.24664
[C:0](=[O:1])[H:2].[c:3]1[c:4]([H:9])[c:5]([H:10])[c:6]([H:11])[c:7]([H:12])[c:8]1[H:13]>>[C:0](=[O:1])([H:2])[c:3]1[c:4]([H:9])[c:5]([H:10])[c:6]([H:11])[c:7]([H:12])[c:8]1[H:13],0.0
[C:0](#[C:1][C:2]([C:3]([H:7])[H:8])([H:5])[H:6])[H:4]>>[C:0](#[C:1][C:2]([C:3]([H:5])([H:7])[H:8])[H:6])[H:4],124.670648
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[O:4][O:5])([H:6])[H:7]>>[C:0](=[C:1]1[C:2]([C:3]([H:9])([H:10])[H:11])([H:8])[O:4]1)([H:6])[H:7].[O:5],129.704
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:12])[H:13])[H:11])[C:6]([C:7]([C:8]([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:10])[H:9]>>[C:0](#[C:1][C:2]1([H:10])[C:3]([C:4](=[C:5]([H:12])[H:13])[H:11])[C:6]([H:14])([H:15])[C:7]([H:16])([H:17])[C:8]1([H:18])[H:19])[H:9],57.4463
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:10])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:7])([H:8])[H:9],69.4544
[C:0](=[C:1]([C:2](=[C:3]([H:12])[H:13])[C:4]([C:5](=[C:6]([C:7]([C:8]([H:19])([H:20])[H:21])[H:18])[H:17])[H:16])([H:14])[H:15])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]1[C:3]([H:12])([H:13])[C:7]([C:8]([H:19])([H:20])[H:21])([H:18])[C:6]([H:17])=[C:5]([H:16])[C:4]1([H:14])[H:15])[H:11])([H:9])[H:10],86.023
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([O:7][O:8][H:19])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:9])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([O:7][O:8][H:19])[H:12])([H:10])[H:11],83.2616
[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]2([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]2([H:19])[C:7]1([H:20])[H:21].[C:22]([c:23]1[c:24]([H:31])[c:25]([H:32])[c:26]([H:33])[c:27]([H:34])[c:28]1[H:35])([H:29])[H:30]>>[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]2[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]2([H:19])[C:7]1([H:20])[H:21].[H:12][C:22]([c:23]1[c:24]([H:31])[c:25]([H:32])[c:26]([H:33])[c:27]([H:34])[c:28]1[H:35])([H:29])[H:30],55.279
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[S:7][c:8]1[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]([H:17])[c:13]1[H:18]>>[C:0](=[C:1]([S:2])[H:5])([H:3])[H:4].[H:6][S:7][c:8]1[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]([H:17])[c:13]1[H:18],7.9496
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[c:9]1[c:10]([H:15])[c:11]([H:16])[c:12]([H:17])[c:13]([H:18])[c:14]1[H:19]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])([H:5])[c:9]1[c:10]([H:15])[c:11]([H:16])[c:12]([H:17])[c:13]([H:18])[c:14]1[H:19])([H:3])[H:4],3.72376
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([C:4]([O:5][O:6][H:19])([H:17])[H:18])([H:15])[H:16])[O:7][O:8])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([C:4]([O:5][O:6][H:19])([H:17])[H:18])([H:15])[H:16])[O:7][O:8][H:9])([H:10])[H:11],140.164
[C:0](=[S:1])([H:2])[H:3].[C:4]([C:5]([S:6][H:12])[C:7](=[S:8])[H:13])([H:9])([H:10])[H:11]>>[C:0](=[S:1])[H:3].[H:2][C:5]([C:4]([H:9])([H:10])[H:11])([S:6][H:12])[C:7](=[S:8])[H:13],186.523
[C:0]([C:1]([S:2][H:13])([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:12])([H:9])([H:10])[H:11].[C:19]([C:20]([c:21]1[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]1[H:35])[H:30])([H:27])([H:28])[H:29]>>[C:0]([C:1]([S:2][H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])([H:10])[H:11].[H:12][C:20]([C:19]([H:27])([H:28])[H:29])([c:21]1[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]1[H:35])[H:30],17.9912
[C:0]([C:1](=[C:2]([C:3]([C:4](=[C:5]([C:6]([H:15])([H:16])[H:17])[C:7]([H:18])([H:19])[H:20])[H:14])([H:12])[H:13])[H:11])[H:10])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([H:10])=[C:2]([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])[C:5]1([C:6]([H:15])([H:16])[H:17])[C:7]([H:18])([H:19])[H:20],108.156
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[H:9].[C:19](=[C:20][C:21]([H:24])([H:25])[H:26])([H:22])[H:23]>>[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[C:20](=[C:19]([H:22])[H:23])[C:21]([H:24])([H:25])[H:26])[H:9],-2.34304
